US04241079
To a suspension of 2-(3-carbomethoxythioureido)-4-propylthioaniline (9.0 g; 0.03 mole) in methanol (100 ml), cooled to 10° C., there is added p-methylbenzaldehyde (3.6 g; 0.03 mole). The mixture is stirred at 10° C. for 1 hr. and at room temperature for 18 hrs. The suspension that forms is vacuum filtered and the filter cake is air dried to afford 1-imino(4-methyl)phenylmethyl-2-(3-carbomethoxythioureido)-4-propylthiobenzene (10.75 g; 89%), m.p. 135°-141° C.

reactant | 2-(3-carbomethoxythioureido)-4-propylthioaniline | 0.03 mole, 9.0 g | C(=O)(OC)NC(NC1=C(N)C=CC(=C1)SCCC)=S | C12H17N3O2S2
reactant | p-methylbenzaldehyde | 0.03 mole, 3.6 g | CC1=CC=C(C=O)C=C1 | C8H8O
reactant | methanol | 100 ml | CO | CH4O
product | 1-imino(4-methyl)phenylmethyl-2-(3-carbomethoxythioureido)-4-propylthiobenzene | 10.75 g, 89% | N=C1C(=C(C(C=C1)(SCCC)C)CC1=CC=CC=C1)NC(=S)NC(=O)OC | C20H25N3O2S2
